US04036989
Copper lining powder (75g) was added portionwise over 30 minutes to a stirred mixture of 1-ethyl-4-iodobenzene (34.8g, 0.15 mole) and 2-bromo-1-nitrobenzene (30.3g, 0.15 mole) in nitrobenzene (250 ml) at 160°. After stirring for a further 3 hours at 160° C the solution was cooled, diluted with methylene chloride and filtered. Methylene chloride was distilled, nitrobenzene was steam-distilled, and the product was isolated in ether, and distilled to give 4-ethyl-2-nitrobiphenyl, b.p. 120°-130° C/0.1mm.

reactant | 1-ethyl-4-iodobenzene | 0.15 mole, 34.8g | C(C)C1=CC=C(C=C1)I | C8H9I
reactant | 2-bromo-1-nitrobenzene | 0.15 mole, 30.3g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | nitrobenzene | 250 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Copper | [Cu] | Cu
product | 4-ethyl-2-nitrobiphenyl | C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C14H13NO2
